US08455483B2
c) (9-(2-Chloro-3-(2-hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-ethylthiazol-4-yl)methanone
To a solution of 2-chloro-3-(2-hydroxyethyl)benzaldehyde (1.1 molar equivalents) in DCM (12 volumes) was added to (2-ethylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone ((limiting reagent) (step b). Triethylamine (2 molar equivalents) was added and the mixture was stirred for 1.15 hr. Sodium triacetoxyborohydride (2.5 molar equivalents) was added portion-wise over 15 minutes maintaining the temperature below 25° C. The reaction mixture was stirred at ambient temperature for 22.5 hr. Saturated aq. sodium bicarbonate solution (8 volumes) was added slowly and the mixture was stirred vigorously for 1 hr; the aqueous was separated and extracted with DCM (5.3 volumes). The combined organics were washed with 20% brine solution (5.3 volumes), dried over anhydrous sodium sulfate, filtered and evaporated to give a brown oil. Yield 107% of theoretical.

reactant | 2-chloro-3-(2-hydroxyethyl)benzaldehyde | 1.1 molar | ClC1=C(C=O)C=CC=C1CCO | C9H9ClO2
reactant | (2-ethylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone | C(C)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCNCC2 | C14H21N3O2S
reactant | Sodium triacetoxyborohydride | 2.5 molar | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Triethylamine | 2 molar | C(C)N(CC)CC | C6H15N
product | (9-(2-Chloro-3-(2-hydroxyethyl)benzyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-ethylthiazol-4-yl)methanone | Yield 107% | ClC1=C(CN2CCC3(CN(CCO3)C(=O)C=3N=C(SC3)CC)CC2)C=CC=C1CCO | C23H30ClN3O3S
